* Z:\home\matt\Documents\Education\Graduate\AdvancedEmbeddedSoftware\AdvancedEmbeddedSoftware\final-project\hardware\Spice\HBrdige.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N001 0 9
L1 N004 P001 2.2mH
R1 P001 N005 2.1
V2 N002 0 PULSE(0 3.3 0 1ns 1ns 10ms 0.1 10)
M1 N004 N003 0 0 RTR040N03
M2 N005 N002 0 0 RTR040N03
M3 N005 N003 N001 N001 RRR040P03
M4 N004 N002 N001 N001 RRR040P03
V3 N003 0 PULSE(0 3.3 0.05 1ns 1ns 10ms 0.1 10)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\matt\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1s
* Motor +
* Motor -
.backanno
.end
